US04600709
Under nitrogen, a mixture of 500 g of polyphosphoric acid and 47.6 g (250 mmol) of p-toluenesulphonic acid monohydrate is heated to 100° and then added to 41.9 g (275 mmol) of 1,2-dimethoxy-4-methylbenzene (4-methylveratrole). The reddish suspension is stirred at 105° for 30 minutes, cooled to 80°, 1500 ml of water are added and the whole is cooled to room temperature. The reaction mixture is extracted with ethyl acetate. The organic phase is washed with water, dried, treated with activated carbon and concentrated by evaporation. The resulting solid substance is recrystallised from toluene, but can also be further reacted directly. The 1,2-dimethoxy-4-methyl-5-(4-methylphenylsulphonyl)benzene is obtained from toluene in the form of white crystals having a melting point of 133°-134.5°.

reactant | p-toluenesulphonic acid monohydrate | 250 mmol, 47.6 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 1,2-dimethoxy-4-methylbenzene | 275 mmol, 41.9 g | COC1=C(C=C(C=C1)C)OC | C9H12O2
reactant | water | 1500 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,2-dimethoxy-4-methyl-5-(4-methylphenylsulphonyl)benzene | COC1=C(C=C(C(=C1)S(=O)(=O)C1=CC=C(C=C1)C)C)OC | C16H18O4S
